* source DESIGN1
X_U1         N00723 N00742 N00735 N01212 0 N01219 N01257 N00881 N00888 0 N02325
+  VOUT 0 0 N01384 N01396 N02568 SW2 HDRV_2 N02564 LDRV_2 0 N02764 VBIAS LDRV_1
+  N02548 HDRV_1 SW1 0 LM5175_TRANS PARAMS: SS_1=0
V_V1         N00304 0 16Vdc
R_R1         N00304 VIN  0.3 TC=0,0 
C_C1         0 N003611  440u  TC=0,0 
C_C2         0 N003771  88u  TC=0,0 
R_R2         N00723 VIN  249k TC=0,0 
R_R3         0 N00723  29.4k TC=0,0 
R_R4         N00735 VIN  2k TC=0,0 
R_R5         N00742 N005090  10 TC=0,0 
C_C3         0 N00742  100n  TC=0,0 
C_C4         0 N00881  0.05uF  TC=0,0 
C_C6         0 N00888  120p  TC=0,0 
R_R7         0 N01212  50k TC=0,0 
R_R8         0 N01219  68.1k TC=0,0 
C_C7         0 N01257  50p  TC=0,0 
C_C8         N01384 N01396  47p  TC=0,0 
R_R9         N01396 SENSE_GND  100m TC=0,0 
R_R10         N01384 0  100m TC=0,0 
X_M1         VIN HDRV_1 SW1 POWER_NMOS_P PARAMS: BVDSS=30 IDSS=5U VGS_TH=2
+  RDSON=0.007 GFS=55 CISS=1170P COSS=180P CRSS=105P RG=1.1 VSD=0.8 QG=20N
+  V_QG=10
X_M2         SW1 LDRV_1 SENSE_GND POWER_NMOS_P PARAMS: BVDSS=30 IDSS=5U
+  VGS_TH=2 RDSON=0.007 GFS=55 CISS=1170P COSS=180P CRSS=105P RG=1.1 VSD=0.8
+  QG=20N V_QG=10
X_M3         VOUT HDRV_2 SW2 POWER_NMOS_P PARAMS: BVDSS=60 IDSS=1U VGS_TH=1.7
+  RDSON=0.0054 GFS=55 CISS=4000P COSS=800P CRSS=32P RG=1.3 VSD=0.9 QG=50N
+  V_QG=10
X_M4         SW2 LDRV_2 SENSE_GND POWER_NMOS_P PARAMS: BVDSS=60 IDSS=1U
+  VGS_TH=1.7 RDSON=0.0054 GFS=55 CISS=4000P COSS=800P CRSS=32P RG=1.3 VSD=0.9
+  QG=50N V_QG=10
L_L1         SW1 N016771  2.2u  
R_R11         SW2 N016771  15m TC=0,0 
R_R12         0 SENSE_GND  2m TC=0,0 
R_R13         N02325 VOUT  700k TC=0,0 
R_R14         0 N02325  20k TC=0,0 
R_R16         N02568 N02764  10k TC=0,0 
C_C11         SW2 N02564  0.1u  TC=0,0 
C_C12         SW1 N02548  0.1u  TC=0,0 
D_D1         N02764 N02548 power_Dbreak 
C_C14         0 VBIAS  0.1u  TC=0,0 
D_D2         N02764 N02564 power_Dbreak 
R_R17         VBIAS N02764  0.05 TC=0,0 
R_C_Input_Elec         N003611 VIN  0.2 TC=0,0 
R_C_Input_Cap         N003771 VIN  0.05 TC=0,0 
C_C13         0 N02764  1u  TC=0,0 
C_C10         0 N050881  88u  TC=0,0 
R_C_OUTPUT_CAP         N050881 VOUT  0.025 TC=0,0 
C_C9         0 N052841  880u  TC=0,0 
R_C_OUTPUT_ELEC         N052841 VOUT  0.15 TC=0,0 
R_R22         N074681 VOUT  3.5 TC=0,0 
V_V2         N10138 0  
+PULSE 0 5 10m 50u 50u 2m 6m
X_M6         N074681 N10138 0 POWER_NMOS_P PARAMS: BVDSS=60 IDSS=1U VGS_TH=1.7
+  RDSON=0.00054 GFS=55 CISS=4000P COSS=800P CRSS=32P RG=1.3 VSD=0.9 QG=50N
+  V_QG=10
D_D3         VIN N005090 power_Dbreak 
R_R6         N123041 N00888  12.7k TC=0,0 
C_C5         0 N123041  15n  TC=0,0 
R_R23         0 N01257  2Meg TC=0,0 
R_R24         0 N10138  2Meg TC=0,0 
